US07414128B2
Ethyl-2-(10H-phenoxazin-10-yl)acetate
A solution of phenoxazine (10 g, 54.6 mmol) in dry dimethyl formamide (15 ml) was added slowly to a stirred ice cooled suspension of sodium hydride (60% dispersion in oil) (2.88 g, 60.1 mmol) in dimethyl formamide (10 ml), under an atmosphere of nitrogen. The mixture was stirred at 80° C. for 2 h and cooled to 0° C. and ethyl bromoacetate (12.78 g, 76.50 mmol) was added dropwise and stirring was continued for 12 h at 25° C. (TLC monitored). Water (50 ml) was added and the aqueous phase extracted with ethyl acetate (2×75 ml). The combined organic phases were washed with water (50 ml), brine (5 ml), dried (Na2SO4), filtered and the solvent was evaporated under reduced pressure. The residue was chromatographed over silica gel (100-200 mesh) using a mixture of benzene and petroleum ether (1:1) to afford the title compound (5.7 g, 39%) as a pale bluish green solid. mp: 96-97° C.

reactant | phenoxazine | 54.6 mmol, 10 g | C1=CC=CC=2OC3=CC=CC=C3NC12 | C12H9NO
reactant | sodium hydride | 60.1 mmol, 2.88 g | [H-].[Na+]
reactant | ethyl bromoacetate | 76.50 mmol, 12.78 g | BrCC(=O)OCC | C4H7BrO2
reactant | Water | 50 ml | O | H2O
solvent | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl-2-(10H-phenoxazin-10-yl)acetate | 5.7 g, 39% | C(C)OC(CN1C2=CC=CC=C2OC=2C=CC=CC12)=O | C16H15NO3
